US05120843
3-Oxo-1-cyclohexene propanal
A solution of 3-(2-(1,3-dioxolan-2-yl)ethyl)cyclohex-2-en-1-one (3.00 g), acetone (60.0 ml) and perchloric acid (3N, 10.0 ml) is stirred for 4 hr at 20°-25°. Aqueous saturated sodium bicarbonate (150 ml) is added and the mixture concentrated. Aqueous workup provides the title compound, IR (neat) 2950, 1720, 1666, 1257, 1194, 969, 732 cm-1.

reactant | 3-(2-(1,3-dioxolan-2-yl)ethyl)cyclohex-2-en-1-one | 3.00 g | O1C(OCC1)CCC1=CC(CCC1)=O | C11H16O3
reactant | perchloric acid | 3N, 10.0 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | sodium bicarbonate | 150 ml | C([O-])(O)=O.[Na+]
solvent | acetone | 60.0 ml | CC(=O)C | C3H6O
product | 3-Oxo-1-cyclohexene propanal | O=C1C=C(CCC1)CCC=O | C9H12O2
